US06518272B2
Cyclohexanecarboxylic Acid {(1R)-1-Cyclohexylmethyl-2-[4-(benzothiazol-2-yl)-piperazin-1-yl]-ethyl}-amide
To a solution of 0.2 g (0.56 mmol) of {(1R)-1-cyclohexylmethyl-2-[4-(benzothiazol-2-yl)-piperazin-1-yl]-ethyl}-amine and 0.16 mL (1.12 mmol) of triethylamine in 10 mL of dichloromethane at 0° C. was added dropwise 0.086 g (0.59 mmol) of cyclohexanecarboxylic acid chloride in dichloromethane (2 mL). The reaction mixture was allowed to stir under nitrogen for one hour at 0° C. and was then concentrated on a rotary evaporator, diluted with ethyl acetate and washed with H2O and brine. The organic phase was dried over anhydrous sodium sulfate, filtered and concentrated on a rotary evaporator to yield the crude product, which was purified by flash chromatography on silica gel (dichloromethane/methanol) and converted to the hydrochloride salt of the title compound with ethereal HCl to yield 0.20 g (70%) as a white solid; mp=229-232° C.; MS (+) ESI m/z=469 (M+H)+.

reactant | {(1R)-1-cyclohexylmethyl-2-[4-(benzothiazol-2-yl)-piperazin-1-yl]-ethyl}-amine | 0.56 mmol, 0.2 g | C1(CCCCC1)C[C@H](CN1CCN(CC1)C=1SC2=C(N1)C=CC=C2)N | C20H30N4S
reactant | triethylamine | 1.12 mmol, 0.16 mL | C(C)N(CC)CC | C6H15N
reactant | cyclohexanecarboxylic acid chloride | 0.59 mmol, 0.086 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | Cyclohexanecarboxylic Acid {(1R)-1-Cyclohexylmethyl-2-[4-(benzothiazol-2-yl)-piperazin-1-yl]-ethyl}-amide | C1(CCCCC1)C[C@H](CN1CCN(CC1)C=1SC2=C(N1)C=CC=C2)NC(=O)C2CCCCC2 | C27H40N4OS
